US09388189B2
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (950 mg, 2.58 mmol) was dissolved in 5 mL dichloromethane and trifluoroacetic acid (993 μl, 12.89 mmol) was added. The mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness and was partitioned between ethyl acetate and potassium bicarbonate. The organic layer was washed with water, brine and dried over sodium sulphate, filtered and concentrated under reduced pressure to give 0.55 g (78% yield) of the title compound that was used in the next step without any further purification. Purity 97%.

reactant | (S)-tert-Butyl (1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 2.58 mmol, 950 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C20H24N4O3
reactant | trifluoroacetic acid | 12.89 mmol, 993 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.55 g, 78% yield | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
